US04665202
A solution of 27 g 4-chloro-3-formyl-flav-3-ene in 25 ml dimethylformamide is refluxed. To this solution one adds 7.7 g hydroxylamine hydrochloride dissolved in 60 ml dimethylformamide. After two hours reflux, the solution is cooled at room temperature before the addition of 400 ml water. The precipitate is formed, filtered, washed with water and dried. The solid is crystallized in diisopropylether. Pure 4-chloro-3-hydroxyiminomethyl-flav-3-ene is obtained as pale yellow crystals; m.p. 199°-200° C.

reactant | 4-chloro-3-formyl-flav-3-ene | 27 g | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClO2
reactant | hydroxylamine hydrochloride | 7.7 g | Cl.NO
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-chloro-3-hydroxyiminomethyl-flav-3-ene | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=NO | C16H12ClNO2
